US07521457B2
a) tert.butyl (3-benzyloxy-cyclobutyl)-carbamate
9.28 g (45 mmol) 3-benzyloxy-cyclobutancarboxylic acid (Org. Lett. 6(11), 1853-1856, 2004) are suspended in 80 ml dry tert-butanol and combined with 5.1 g (50 mmol) triethylamine and 13.8 g (50 mmol) phosphoric acid diphenylester azide. The reaction mixture is stirred for 20 h under reflux conditions. The solvent is eliminated in vacuo and the residue is taken up in dichloromethane. The organic phase is washed three times with 2 N sodium hydroxide solution, dried with sodium sulphate and the dichloromethane is eliminated in vacuo. The crude product is recrystallised from acetonitrile (1 g crude product: 5 ml acetonitrile).

reactant | 3-benzyloxy-cyclobutancarboxylic acid | 45 mmol, 9.28 g | C(C1=CC=CC=C1)OC1CC(C1)C(=O)O | C12H14O3
reactant | triethylamine | 50 mmol, 5.1 g | C(C)N(CC)CC | C6H15N
reactant | phosphoric acid diphenylester azide | 50 mmol, 13.8 g | [N-]=[N+]=[N-].C1(=CC=CC=C1)OP(OC1=CC=CC=C1)(O)=O
reactant | tert-butanol | 80 ml | C(C)(C)(C)O | C4H10O
solvent | dichloromethane | ClCCl | CH2Cl2
product | tert.butyl (3-benzyloxy-cyclobutyl)-carbamate | C(C1=CC=CC=C1)OC1CC(C1)NC(OC(C)(C)C)=O | C16H23NO3
